US07307095B2
2-(S)-(Benzooxazol-2-ylamino)-3-cyclohexyl-N-[2-(4-fluoro-phenylamino)-ethyl]-propionamide.
The title compound was prepared from 2-chlorobenzoxazole, L-cyclohexylalanine and N1-(4-fluoro-phenyl)-ethane-1,2-diamine.2HCl using the procedure analogous to that described in example 2. 1H NMR (DMSO-d6, 400 MHz) δ 8.16(m, 2H), 7.30(m, 1H) 7.16(m, 1H), 7.04(m,1H), 6.92(m, 1H), 6.84(m, 2H), 6.50(m, 2H), 4.24 (m, 1H), 3.15(m, 2H), 2.97(m, 2H), 1.55(m, 7H), 1.30(m, 1H), 1.05(m, 3H), 0.83(m, 2H). HPLC-MS calcd. for C24H29FN4O2 (M+H+)424.23, found 425.5.

reactant | 2-chlorobenzoxazole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | L-cyclohexylalanine | C1CCC(CC1)C[C@@H](C(=O)O)N | C9H17NO2
reactant | N1-(4-fluoro-phenyl)-ethane-1,2-diamine | FC1=CC=C(C=C1)NCCN | C8H11FN2
product | 2-(S)-(Benzooxazol-2-ylamino)-3-cyclohexyl-N-[2-(4-fluoro-phenylamino)-ethyl]-propionamide | O1C(=NC2=C1C=CC=C2)N[C@H](C(=O)NCCNC2=CC=C(C=C2)F)CC2CCCCC2 | C24H29FN4O2
